US05189054
Suspend 4-fluoro-2-nitro-benzoic acid (4.5 g, 24.3 mmol) in toluene (20 mL), add thionyl chloride (22.5 mL) seal the flask and warm to 50° C. for 3 hours. Concentrate the reaction in vacuo and reconcentrate two more times from toluene. Place under high vacuum for 1 hour. Dissolve the acid chloride in methylene chloride (40 mL) and add t-butylamine (13.5 mL). Stir the reaction at room temperture. Concentrate the reaction in vacuo to yield the 4-fluoro-2-nitro-tert-butylbenzamide as an off white solid (5.5 g, 95%); mp 142°-143° C.

reactant | 4-fluoro-2-nitro-benzoic acid | 24.3 mmol, 4.5 g | FC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | thionyl chloride | 22.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | t-butylamine | 13.5 mL | C(C)(C)(C)N | C4H11N
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-2-nitro-tert-butylbenzamide | FC1=C(C(=C(C(=O)N)C=C1)[N+](=O)[O-])C(C)(C)C | C11H13FN2O3
